US03957822
100 g of polyethylene terephthalate fibres in 4 l of water are dyed with 1 g of the dyestuff prepared according to the above example, which has first been brought to a finely divided state in the presence of dispersing agents, the dyeing being carried out in the presence of 15 g of o-cresotic acid methyl ester as the carrier for 2 hours at 100°C and pH 4.5. A brilliant yellow-tinged pink dyeing is obtained, which is distinguished by good built-up and high fastness to washing, thermofixing, rubbing and light. A similar colouration is obtained if polyester fibres from 1,4-bis-(hydroxymethyl)-cyclohexane and therephthalic acid are used.

reactant | polyethylene terephthalate | 100 g | C(C1=CC=C(C(=O)O)C=C1)(=O)O.C(C[*:2])[*:1]
reactant | o-cresotic acid methyl ester | 15 g | COC(=O)C1=C(O)C(C)=CC=C1 | C9H10O3
reactant | brilliant yellow | C1=CC(=O)C=CC1=NNC2=CC(=C(C=C2)/C=C/C3=C(C=C(C=C3)NN=C4C=CC(=O)C=C4)S(=O)(=O)[O-])S(=O)(=O)[O-].[Na+].[Na+]
solvent | water | 4 l | O | H2O
product | 1,4-bis-(hydroxymethyl)-cyclohexane | OCC1CCC(CC1)CO | C8H16O2
